US04231784
2-Chloro-N-[(4-dimethylamino-6-methoxypyrimidin-2-yl)-aminocarbonyl]benzenesulfonamide
To 700 ml of acetonitrile containing 25 g of 2-amino-4-dimethylamino-6-methoxypyrimidine at ambient temperature was added, dropwise, 32.5 g of 2-chlorobenzenesulfonylisocyanate. The mixture was warmed to 40° and then allowed to stir for five hours at ambient temperature. The solid product named above was isolated by filtration and washed with a small amount of cold ethyl ether. It melted at 224°-226°.

reactant | 2-amino-4-dimethylamino-6-methoxypyrimidine | NC1=NC(=CC(=N1)N(C)C)OC | C7H12N4O
reactant | 2-chlorobenzenesulfonylisocyanate | 32.5 g | ClC1=C(C=CC=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
solvent | acetonitrile | 700 ml, 25 g | C(C)#N | C2H3N
product | 2-Chloro-N-[(4-dimethylamino-6-methoxypyrimidin-2-yl)-aminocarbonyl]benzenesulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)N(C)C)OC | C14H16ClN5O4S
